Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
levofloxacin
 
Attending: ___.
 
Chief Complaint:
Name: ___. 
Location: ___ 
HMED ATTENDING INTIAL NOTE
DATE:  ___
TIME: 1053 ___
==================
PCP: Name: ___. 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 
Email: ___ 
===================
CC: SOB, COUGH, HYPOXIA, FEVERS
 
Major Surgical or Invasive Procedure:
- none

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 
HPI: 
___ female with history of allergic rhinitis, remote h/o 
tobacco use, h/o ___ syndrome, h/o asthma,with chronic 
cough h/o PNA ___ ___ and presentation to ___ with syncope 
___ ___ for which she was seen at ___. This was thought to be 
secondary to dehydration. Her CXR then demonstrated b/l 
atelectasis. She now 
presents with with 48 hour history of increasingly productive 
cough of green gray sputum which is new for her. Her chronic 
cough usually consists of clear sputum. She also had fever and 
hypoxia at urgent care. Patient is ___ on room air, 93% on 2 L. 
Temp 102 on presentation. Normal blood pressure, lactate normal. 
Chest x-ray demonstrates bibasilar linear opacities with 
probable retrocardiac infiltrate lobe. Given the patient's 
presentation, influenza testing was sent and is negative. ___ 
light of her hypoxia, she will require admission for further 
inpatient level of care. The patient received 750 mg of Levaquin 
and developed a focal rash/ phlebitis - abx stopped, benadryl 
given, no systemic symptoms. Formal CXR read with bibasilar 
streaking/ probable retrocardiac infiltrate. Given reaction to 
Levo, Ceftriaxone given (no azithromycin ___ pyxis at UC) 
Prior to this she felt well. 

99.4, 67, 18, 110/56, 94% 2Liters. #20 ___ right hand
-------------------
CTX 1 g IV given at UC, 500 mg IV Azithro given here
duo-nebs

 

___ ER: (Triage Vitals: (0 |98.8 |67 |112/60 |18 |96% Nasal 
Cannula ) 
Meds Given: 
IV Azithromycin 500 mg 
DiphenhydrAMINE 25 mg 
Albuterol 0.083% Neb Soln 1 NEB 
Ipratropium Bromide Neb 1 NEB 
Acetaminophen 1000 mg x T 
.
Fluids given:None 
Radiology Studies: CXR- ?done at urgent care
consults called: none

.
PAIN SCALE: ___ 
 CONSTITUTIONAL: +per HPI- fever but no weight loss or malaise 
prior to illness. 
 HEENT:  [X] All normal
 RESPIRATORY:  [+] cough, no shortness of breath
 CARDIAC:  [] no chest pain 
 GI:  [+] diarrhea x 1 day consisting of brown loose stool new 
today
 GU:  [X] All normal
 SKIN:  [+] rash with levaquin at urgent care but none prior to 
this
 MUSCULOSKELETAL:  [+] achiness from fevers
 NEURO:  [X] All normal
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
allergic rhinitis,
peripheral neuropathy, 
___ syndrome- aspirin d/c did not help noticeably but she 
has continued to hold this medication. 
lumbar DJD with
radiculopathy/sciatica, 
history of dyspareunia, 
adult-onset asthma diagnosed ___ years ago.

PAST SURGICAL HISTORY:  She had spinal steroid injections ___ the
past.

 
Social History:
___
Family History:
Her father had cardiovascular disease and diabetes.  Her mother 
had esophageal cancer.  She had a brother with cardiovascular 
disease and hypertension
 
Physical Exam:
PHYSICAL EXAM:
Tm 99.9, Tc 98.8, HR 75-80.  BP 96-125/49-57.  RR 18.  SpO2
93-94% RA.
GEN:  well appearing woman, NAD
HEENT:  PERRL, no conjunctival injection.  Some crusting is
visualized on eyelashes.  No palpable cervical LAD.
CV:  RRR, no m/r/g
PULM:  good air entry b/l, not as much wheezing as yesterday. 
Crackles ___ lower right lung field.  voice still sounds somewhat
hoarse, productive cough noted occasionally, no increased work 
of
breathing or use of accessory muscles, no conversational dyspnea
ABD: soft, nontender to palpation, nondistended, normal bowel
sounds.
EXT:  no peripheral edema, warm, well-perfused.  
SKIN:  no rashes or wounds.
NEURO:  A, O x 3, no focal neuro deficits.  

 
Pertinent Results:
___ 03:19PM   LACTATE-0.9
___ 03:13PM   GLUCOSE-134* UREA N-9 CREAT-0.6 SODIUM-133 
POTASSIUM-3.5 CHLORIDE-97 TOTAL CO2-23 ANION GAP-17
___ 03:13PM   estGFR-Using this
___ 03:13PM   WBC-12.1*# RBC-4.37 HGB-13.3 HCT-38.7 MCV-89 
MCH-30.4 MCHC-34.4 RDW-12.3 RDWSD-40.1
___ 03:13PM   NEUTS-77.2* LYMPHS-10.9* MONOS-10.9 EOS-0.2* 
BASOS-0.4 IM ___ AbsNeut-9.30*# AbsLymp-1.32 AbsMono-1.32* 
AbsEos-0.03* AbsBaso-0.05
___ 03:13PM   PLT COUNT-271
___ 02:50PM OTHER BODY FLUID  FLU A-RAPID ANTI FLU B-RAPID 
ANTI
___ 02:50PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
====================
ADMISSION CXR: IMAGES REVIEWED BY AUTHOR:
There  is  linear  atelectasis  ___  both  lung  bases.    There  
is  some  patchy atelectasis  within  the  left  lower  lobe.    
There  is  no  pneumothorax  or  CHF.
==================

___ 06:19AM BLOOD WBC-7.7 RBC-3.71* Hgb-11.2 Hct-33.5* 
MCV-90 MCH-30.2 MCHC-33.4 RDW-12.5 RDWSD-41.1 Plt ___
___ 06:19AM BLOOD ALT-29 AST-27 AlkPhos-66 TotBili-0.2

MICRO:

 SPUTUM CULTURE:
 GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

BLOOD CULTURES FROM ___:  NGTD X 2
Legionella antigen: negative
 
Brief Hospital Course:
ASSESSMENT AND PLAN:
The patient is a ___ year old female with h/o PNA, ___
syndrome (aspirin induced asthma) allergic rhinitis remote
smoking h/o who presents with fever, cough and hypoxia 
consistent
with bronchitis vs. pneumonia.  Flu PCR negative, Legionella
negative.

1.  Community acquired pneumonia vs. bronchitis:  no xray
findings but sputum does show GNRs and GPCs on gram stain
although no growth to date.  Had reported localized venous
irritation when receiving levofloxacin at urgent care, but
looking through records, she has been on levofloxacin last 
___
for pneumonia without reported issues.  Still with high grade
fever ___ but last T was 102.9 at 19:00 on ___. O2 sat ___ mid 
___ on RA.  Ambulatory sats stayed at 94-95% on RA. Respiratory 
culture grew commensarate respiratory flora and blood cultures 
were no growth x 36 hrs on discharge and followed up w/ no 
growth after 72 hrs. 

 Received 3 doses of ceftriaxone and azithromycin, switched to 
PO levofloxacin on day 4 and discharged with 4 more days of 
levofloxacin.  Also received duonebs while inpatient.  For 
symptomatic treatment,  d/c'd with tessalon perles, nebulizer 
chamber and duonebs and codeine for cough suppression.  
Encouraged to buy guaifenasin- dextromethorphan at local 
pharmacy.  

2.  Asthma:
- continue singulair and nebs as above
- should see pulmonologist as outpatient once her lungs have
recovered

3.  allergic rhinitis:  
- we do not have azelasteline here, pt says she does not feel
nasal stuffiness, will hold off on her home azalasteline/
fluticasone here unless she feels more stuffy.  Also told her
that her husband could bring it ___ and she could use her home
med but she declined.  

 
Medications on Admission:
Albuterol sulfate HFA 90 mcg - infrequently
Dymista 137 mcg nasal spray, 
Singulair 10 mg, 
turmeric.

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Montelukast 10 mg PO DAILY 
3. Benzonatate 100 mg PO TID 
you can take it 3x per day to prevent cough, but you can stop it 
anytime that you want to 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times per day 
Disp #*60 Capsule Refills:*0
4. Codeine Sulfate ___ mg PO Q6H:PRN cough suppresion 
take as needed to prevent cough 
RX *codeine sulfate 30 mg 1 tablet(s) by mouth twice a day Disp 
#*16 Tablet Refills:*0
5. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
use up to 4x/day, put liquid medication into chamber, breathe 
through inhaler,  to open airways 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 vials 
inh every 6 hours Disp #*24 Ampule Refills:*0
6. Levofloxacin 750 mg PO Q24H 
through ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once daily Disp #*4 
Tablet Refills:*0
7. Dymista (azelastine-fluticasone) 137-50 mcg/spray nasal BID 
8. Fluticasone Propionate NASAL 2 SPRY NU BID 
use either this or the combined dymista 
9. MDI spacer
for albuterol inhaler

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- community acquired pneumonia vs. bronchitis
- underlying asthma

 
Discharge Condition:
condition:  good
Mental status:  excellent, A, O x 3
Ambulatory, kept O2 sats > 94%

 
Discharge Instructions:
Ms. ___, you were admitted with signs and symptoms of 
pneumonia (infection of the lung tissue) vs. bronchitis 
(infection of the lung airways), with fevers, shortness of 
breath, hypoxemia (low oxygen levels ___ your blood), and 
elevated white blood cell count (a marker of infection).  You 
were tested for the flu, and this was negative.  You received 
broad spectrum antibiotics with ceftriaxone and azithromycin for 
3 days and then received 1 dose of levofloxacin ___ the hospital 
and are being discharged with 4 more doses (1 dose per day) of 
levofloxacin for a total of 8 days of antibiotic treatment. 

You had a high fever on admission as well as on ___.  Blood 
culture were drawn at this time and so far have not demonstrated 
growth of bacteria which would indicate a blood stream 
infection.  I will watch these blood cultures and if they do 
become positive (which is unlikely) I will call you immediately 
and ask you to come back to the ED.

You were treated with supportive treatment for irritation of the 
airways with nebulized medications and are going home with a 
nebulizer which you can use as needed up to 4x per day.  You can 
also use your albuterol inhaler if you feel short of breath 
after a coughing fit.  You can use the benzonatate/ tessalon 
pearls three times a day to suppress cough, as well as the 
codeine, one tablet twice a day as needed.  You can buy 
robitussin-DM (guaifenesin- dextromethorphan) at the pharmacy 
for additional help getting the phlegm mobilized and for cough 
suppression.    
 
Followup Instructions:
___